Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / Keflex
 
Attending: ___.
 
Chief Complaint:
Fall, hyponatremia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o F w/ h/o ckd, not on blood thinners, in assisted living, 
here after witnessed mechanical fall around 8p. Pt bending over 
to adjust fan, fell, hit right side of head and right hip. No 
LOC, N/V, vision changes, altered mental status, or amnesia. Pt 
currently c/o right sided headache, and right hip pain. 

In the ED, initial vitals:  97.8
72 183/74 18 100% RA
Labs were significant for  hyponatremia (118), ___ (cr 1.3 from 
1, has been as high as 1.7 in past), mild luekocytosis (13.4), 
positive U/A
Imaging showed
CT head and cspine neg, plain films hip neg
Able to range right hip well
Cspine clinically cleared  
In the ED, she received tylenol, oxycodone 5 mg X 3 over 8 
hours, fluoxetine, gabapentin, synthroid

She was fluid restricted for hyponaremia of 118, which improved 
to 122 and Cr to 1.2.

Vitals prior to transfer: 98.2 65 140/77 16 96% RA 

On floor patient reports no complaints. She has been eating and 
drinking okay the past few days and has not felt fatigued, and 
has had no change in bladder or bowel habits. She does report 
however that she has had been drinking more tea and water 
recently. She is very pleasant and is AOX3; is a former ___. 

 
Past Medical History:
- CKD
- Osteoporosis
- Anemia
- Dysphagia
- Cervical radiculopathy
- Polyneuropathy
- Frequent falls
- Hx Basal cell carcinoma
- Hx Lentigo maligna
- Hx Squamous cell carcinoma of skin
- Hx Ankle fracture
- Hx Humerus fracture, proximal w/ shoulder arthroplasty ___
 
Social History:
___
Family History:
Mother with facial cancer. Didn't know her father. Sister 
healthy.

 
Physical Exam:
ON ADMISSION

VS:  T 98.3 145/66 HR 62 RR 18 98 % RA
 GEN: Alert, lying in bed, no acute distress  
 HEENT: dry MM, no cervical LAD, anisocoria noted 
 NECK: Supple without LAD
 PULM: Generally CTA over anterior chest   
 COR: RRR (+)S1/S2 no m/r/g  
 ABD: Soft, non-tender,slight distension, midline scar ___ prior 
hysterectomy
 EXTREM: Warm, well-perfused, no edema  
 NEURO: CN II-XII grossly intact, motor function grossly normal 

ON DISCHARGE

PHYSICAL EXAM:  
VS:  BP 144/66 HR 59 RR 18 97 RA
 GEN: Alert, lying in bed, no acute distress  
 HEENT: moist mucous membranes 
 NECK: Supple without LAD
 PULM: Generally CTA over anterior chest   
 COR: RRR (+)S1/S2 no m/r/g  
 ABD: Soft, non-tender,slight distension, midline scar ___ prior 
hysterectomy
 EXTREM: Warm, well-perfused, skin tender to touch. LEft lateral 
hip tenderness 
 NEURO: CN II-XII grossly intact, motor function grossly normal

 
Pertinent Results:
ON ADMISSION
======================

___ 07:30PM   GLUCOSE-137* UREA N-11 CREAT-1.3* SODIUM-121* 
POTASSIUM-4.7 CHLORIDE-89* TOTAL CO2-24 ANION GAP-13
___ 10:13AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:55PM   WBC-13.4* RBC-3.93 HGB-11.9 HCT-34.3 MCV-87 
MCH-30.3 MCHC-34.7 RDW-12.5 RDWSD-40.0

ON DISCHARGE
======================

___ 06:05AM BLOOD WBC-9.1 RBC-3.29* Hgb-9.8* Hct-30.3* 
MCV-92 MCH-29.8 MCHC-32.3 RDW-12.7 RDWSD-42.0 Plt ___
___ 06:05AM BLOOD Glucose-90 UreaN-23* Creat-1.2* ___ 
K-4.6 Cl-94* HCO3-27 AnGap-12
___ 06:05AM BLOOD Calcium-9.2 Phos-4.2 Mg-1.9
___ 06:54AM BLOOD TSH-12*
___ 06:54AM BLOOD Free T4-1.0

IMAGING
================================
HIP XRAY

Final Report
INDICATION:  ___ with mechanical fall, fell onto right side, 
with right hip
pain  // fracture
 
COMPARISON:  Prior exam dated ___.
 
FINDINGS: 
 
AP pelvis and two views of the right hip were provided.  There 
is left hip
arthroplasty partially imaged which appears aligns normally and 
without signs
of hardware failure.  Chronic deformities involving the inferior 
pubic rami
are again noted.  Right hip aligns normally.  Vascular 
calcification noted. 
Bony pelvic ring appears intact.  SI joints are symmetric and 
normal.
 
IMPRESSION: 
 
No acute findings.

EXAMINATION:  CT C-SPINE W/O CONTRAST
 
INDICATION:  ___ with mechanical fall witnessed onto right side, 
with right
sided hematoma, no LOC, not on blood thinners
 
TECHNIQUE:  Non-contrast helical multidetector CT was performed. 
Soft tissue
and bone algorithm images were generated.  Coronal and sagittal 
reformations
were then constructed.
 
DOSE:  Total DLP (Body) = 625 mGy-cm.

CT SPINE

COMPARISON:  CT cervical spine ___.
 
FINDINGS: 
 
Mild anterolisthesis of C4 on C5 and retrolisthesis of C6 on C7 
is chronic. 
No acute fractures are identified.  Multilevel degenerative 
changes with
anterior osteophytes and disc space narrowing are present and 
unchanged. 
There is no prevertebral soft tissue swelling.There is no 
cervical
lymphadenopathy by size criteria.  The visualized thyroid gland 
is
unremarkable.  Prominent biapical pleural-parenchymal scarring 
and
calcifications are unchanged from prior exam.  The visualized 
aerodigestive
tract is grossly unremarkable.  Prominent atherosclerotic 
calcification of the
bilateral carotid bifurcations are noted.
 
IMPRESSION:
 
 
1. No acute fracture or traumatic malalignment.
2. Multilevel degenerative changes, unchanged from prior exam.

CT HEAD

Final Report
EXAMINATION:  CT HEAD W/O CONTRAST
 
INDICATION:  ___ with mechanical fall witnessed onto right side, 
with right
sided hematoma, no LOC, not on blood thinners
 
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without
contrast.
 
DOSE:  Total DLP (Head) = 803 mGy-cm.
 
COMPARISON:  Head CT ___.
 
FINDINGS: 
 
There is no evidence of acute large territorial infarction, 
hemorrhage, edema,
or mass effect. Ventricles and sulci are prominent, consistent 
with
age-related involutional changes.  Periventricular subcortical 
white matter
hypodensities are nonspecific but compatible with chronic small 
vessel
ischemic changes and unchanged from prior exam.
There is no evidence of fracture.  Extensive calcification of 
carotid siphons
is present.  Partial opacification of right mastoid air cells is 
noted.  The
visualized portion of the paranasal sinuses,left mastoid air 
cells, and middle
ear cavities are clear.  Mild right temporal scalp hematoma is 
identified
without underlying skull fracture.
 
IMPRESSION:
 
 
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no
intracranial hemorrhage.

CXR 

EXAMINATION:
Chest:  Frontal and lateral views
 
INDICATION:  ___ year old woman with fall found to have elevated 
WBC.  // Eval
for cardiopulmonary process
 
TECHNIQUE:  Chest:  Frontal and Lateral
 
COMPARISON:  ___
 
FINDINGS: 
 
The patient is somewhat rotated.  The lungs remain 
hyperinflated.  Biapical
pleural thickening is noted.  No new focal consolidation is 
seen.  No pleural
effusion or pneumothorax is seen. The cardiac and mediastinal 
silhouettes are
stable.  Partially imaged bilateral humeral prostheses noted.
 
IMPRESSION: 
 
No acute cardiopulmonary process.

MICRIOBIOLOGY
========================

Allergies: morphine / Keflex
Resident: ___ ___ Intern: ___ ___
Code Status: Do not resuscitate (DNR/DNI) molst in chart
Microbiology Results(last 7 days) ___
__________________________________________________________
___ 10:13 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 

 
Brief Hospital Course:
___ pleasant year old female s/p recent left hip revision 
hemiarthoplasty presents from nursing home with mechanical fall, 
found to have profound hyponatremia (118) and likely UTI, and 
___. It was determined patient likely had prerenal ___ prior to 
admission, and during hospital stay while hyponatremika improved 
from 118 to 128 source of hypoantremia remained unclear, with 
belief being patient may have suffered from SIADH vs reset 
osmostat. Patient discharged on 1 L fluid restriction with plans 
for close PCP followup, and her home SSRi was stopped.  

HOSPITAL COURSE BY ISSUE
==================
#Hyponatremia: Likely chronic in setting of poor po intake, 
possible volume down, and confusion from UTI. initially patient 
was fluid restricted for concern siadh. Patient was given 500 cc 
boluses but now with ___ improvement 118 on admission to 129, 
leading team to believe hypovolemic hyponatremia in setting of 
poor po intake after recent hip surgery as cause. However, 
patient then subseqeutnly had drop in ___, with urine osmolality 
showed ~ 400. AS a result, patient was fluid restricted, with ___ 
hovering around ~140, with resolution ___ below. Ultimately it 
was determined as despite fluid boluses and fluid restriction 
and given lack of symptoms, patient may have had a reset 
osmostat as well. Her home fluoxetine was stopped, and TSH was 
checked at 12 (FT4 1.0); home synthroid was uptitrated to 75 mcg 
from 50mcg as a result.   

# UTI, leukocytosis: CXR clear. WBC 13.4 on admision, ~ 7 on 
___ after treating uti. Patient was on bactrim ___t 
___ for unclear reason, switched to cipro in house. patient 
afebrile, has some hesitancy symptoms, mild positive u/a. 
Leukocytosis now improving. Urince cultures were negative but 
given fact patient came in on bactrim and improvement in WBC 
continued cipro /17, d7 = ___ given improvement since starting 
antibx

___: Cr 1.4 from 1.0 baseline, likely pre renal. It was 
believed she ahd a prerenal ATN immediately prior to admission 
as while giving her fluidis initially during her stay helped her 
___ it worsened her Cr. However, by discharge, Cr had started to 
downtrend to 1.2. 

# Hypertension: Home lisinopril was held due to ___ above. She 
was intermittently hypertensive overnight in the setting of 
pain. She recieved oxycodone prn as below.  

#Trauma workup s/p mechanical fall: Hip x-rays Negative, no 
fractures. Patient s/o ___ left hip hemiarthoplasty (left 
hip s/p hip replacement ___ years prior) Pain control with 
oxycodone. 

# Hx depression: Continued hoem fluoxetine, then stopped ___ 
possible SIADH above 

# Hypothyroid: Continued home synthroid. TSH in house was 12; 
however free T4 was wnl. ___ hypothyroidism as possible 
etiology of hypoantremia above, patient was uptitrated to 75 mcg 
synthroid on d/c. 

# Osteoporosis: Continued calcium, vitamin D 

# Pain control: Continued home meds save for hydromorphone; 
switched to oxycodone prn, can switch back on d/c. 

TRANSITIONAL ISSUES
==============================
-Patient to end ciprofloxacin on ___
-Please check ___, Cr at next PCP appointment, ___ on d/c 128, 
1.2
-Patient used short term oxycodone in house; she can resume her 
prior pain regimen thereafter. Rx short course to last until PCP 
followup as patient feared ALF would require rx to fill.  
-Patient's home lisinopril discontinued, if Cr returns to normal 
on d/c woul restart
-Home synthroid increased to 75 mcg from 50 mcg given TSH of 12 
(elevated) and hyponatremia above (however free T4 1). Given 
just subclinical hypothyroidism on labs; would recheck TSH and 
Free T4 in 3 weeks; if patient hyperthyroid decrease synthroid 
back to 50 mcg. 
-Patient's home SSRI stopped due to hyponatremia above. 
-Patient discharged on 1 L fluid restriction; if patient appears 
dry on F/U appointment and ___ improving, would liberalize 
restriction. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 600 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Gabapentin 600 mg PO TID 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Lorazepam 1 mg PO BID:PRN anxiety 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Senna 8.6 mg PO BID:PRN constipation 
10. TraZODone 100 mg PO QHS 
11. Vitamin D ___ UNIT PO DAILY 
12. Acetaminophen 1000 mg PO Q8H 
13. Denosumab (Prolia) 60 mg SC Q6MONTHS 
14. Fluoxetine 20 mg PO DAILY 
15. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
16. Fiber (calcium polycarbophil) (calcium polycarbophil) 625 mg 
oral DAILY 
17. Ferrous Sulfate 325 mg PO DAILY 
18. Voltaren (diclofenac sodium) 1 % topical BID 
19. Sulfameth/Trimethoprim DS 1 TAB PO BID 
20. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO DAILY:PRN 
pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hypovolemic Hyponatremia
UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you fell. At the hospital, it 
was determined that you had no fractures but your sodium was 
very low, and our medical team felt you were dehydrated. In the 
hospital we gave your IV fluids and your sodium improved. We ask 
that you follow up with your primary care physician to monitor 
your sodium level and kidney function. We also also discharging 
you with a short taper of oxycodone for pain in your hip; after 
this you should go back on the pain regimen your assisted living 
facility is giving you. Lastly, we are giving you an antiobiotic 
for a possible UTI (you were taking another antibitotic at home 
which we changed). This antibiiotic is called ciprofloxacin, and 
you will take it until ___.  

We wish you all the best!
-You ___ Care Team

 
Followup Instructions:
___